* source 03_ORCAD_PRACTICE
R_R1         VIN VOUT  1k TC=0,0 
D_D1         VOUT 0 D1N4148 
V_Vs         VIN 0  AC 0
+SIN 0 10 1k 0 0 0
V_V1         N01092 N01183  AC 0
+SIN 0 12V 50Hz 0 0 0
D_D2         0 N01092 D1N4148 
D_D3         N01092 N01272 D1N4148 
D_D4         N01183 N01272 D1N4148 
D_D5         0 N01183 D1N4148 
R_R2         0 N01272  1k TC=0,0 
V_V2         N02520 0  AC 0
+SIN 0 9V 50Hz 0 0 0
R_R3         N02520 N02466  5k TC=0,0 
R_R4         0 N02466  10k TC=0,0 
D_D6         N02466 N02462 D1N750 
D_D7         0 N02462 D1N750 
