* source 06_PROJECT
.EXTERNAL OUTPUT Vo
V_V1         N14643 0  
+SIN 0 400mV 1k 0 0 0
V_V2         N14650 0 2.06V
R_R1         0 N14492  7.5k TC=0,0 
R_R2         N14650 N14496  3k TC=0,0 
R_R3         N14643 N14492  3k TC=0,0 
R_R4         N14496 N14527  7.5k TC=0,0 
E_U1         N14527 0 VALUE {LIMIT(V(N14492,N14496)*1E6,-15V,+15V)} _U1 N14492
+  N14496 1G

R_R5         0 N15915  7.5k TC=0,0 
R_R8         N15941 VO  1000k TC=0,0 
V_V3         N15993 0  AC 50mV
+SIN 0 50mV 1k 0 0 0
R_R7         N15993 N15941  10k TC=0,0 
X_U3         N15915 N15941 V+ V- VO uA741
