* source TEST
.EXTERNAL OUTPUT OUT
R_R1         N00106 N00113  100 TC=0,0 
V_V1         N00106 0 0Vdc
D_D1         0 N00113 D1N5225 
V_V2         N00293 0 DC 0Vdc AC 1Vac 
R_R2         N00293 OUT  1k TC=0,0 
R_R3         0 OUT  1k TC=0,0 
C_C1         0 OUT  0.47u  TC=0,0 
